US04367238
A mixture of 2-[2-hydroxy-3-(2-hydroxyphenoxy)phenyl]acetic acid (9.4 g) and p-toluene sulfonic acid (0.2 g) in benzene (100 ml) was refluxed under heating for 3 hrs. Benzene (20 ml) was distilled off from the reaction mixture, and benzene (20 ml) was newly added and refluxed again under heating for 3 hrs. The reaction mixture was washed with water, aqueous sodium bicarbonate and saline successively, dried over magnesium sulfate and then evaporated. The precipitates were recrystallized from ethanol (10 ml) to give 7-(2-hydroxyphenoxy)-2,3-dihydrobenzofuran-2-one (6.2 g). mp 150°-152.5° C.

reactant | 2-[2-hydroxy-3-(2-hydroxyphenoxy)phenyl]acetic acid | 9.4 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)O)CC(=O)O | C14H12O5
reactant | p-toluene sulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 7-(2-hydroxyphenoxy)-2,3-dihydrobenzofuran-2-one | 6.2 g | OC1=C(OC2=CC=CC=3CC(OC32)=O)C=CC=C1 | C14H10O4
